US04966967
9-(1H-Imidazol-1-yl)-4-[2-[4-(1H-imidazol-1-yl)phenyl]ethyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine
In a manner similar to example 8, react 9-(1H-imidazol-1-yl)-4-[2-[4-(1H-imidazol-1-yl)phenyl]acetyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine with lithium aluminum hydride to obtain the title compound.

reactant | 9-(1H-imidazol-1-yl)-4-[2-[4-(1H-imidazol-1-yl)phenyl]acetyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | N1(C=NC=C1)C1=CC2=C(OCCN(CCO2)C(CC2=CC=C(C=C2)N2C=NC=C2)=O)C=C1 | C24H23N5O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 9-(1H-Imidazol-1-yl)-4-[2-[4-(1H-imidazol-1-yl)phenyl]ethyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | N1(C=NC=C1)C1=CC2=C(OCCN(CCO2)CCC2=CC=C(C=C2)N2C=NC=C2)C=C1 | C24H25N5O2
